US05731315
A. 6-Chlorobenzo[b]thiophene-2-sulfonic acid [1-(5-cyano-2-hydroxy-benzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide
The title compound is prepared from 3-[(3-amino-2-oxo-pyrrolidin-1-yl)-methyl]-4-hydroxy-benzonitrile hydrochloride as described in EXAMPLE 17, Part G substituting 6-chlorobenzo[b]thiophene-2-sulfonyl chloride in place of 4,6-dichlorobenzo[b]thiophene-2-sulfonyl chloride. The crude product is triturated with Et2O to give the title compound as a white solid.

reactant | 3-[(3-amino-2-oxo-pyrrolidin-1-yl)-methyl]-4-hydroxy-benzonitrile hydrochloride | Cl.NC1C(N(CC1)CC=1C=C(C#N)C=CC1O)=O
reactant | 6-chlorobenzo[b]thiophene-2-sulfonyl chloride | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
product | 6-Chlorobenzo[b]thiophene-2-sulfonic acid [1-(5-cyano-2-hydroxy-benzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | C(#N)C=1C=CC(=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=C(S2)C=C(C=C3)Cl)=O)C1)O | C20H16ClN3O4S2
